US06713471B1
To a solution of 2,4-difluoro-N-(2-hydroxyethyl)benzamide (299 mg, 1.49 mmol) and triethylamine (302 mg, 2.98 mmol) in CH2Cl2 under nitrogen at 0° C. was added methanesulfonyl chloride (335 mg, 2.98 mmol) The reaction mixture was stirred for 1 h at 0° C. 1 N HCl (5 mL) was added to quench the reaction and the solution was diluted with ethyl acetate (100 mL), washed with saturated NaHCO3 (100 mL) and saturated NaCl (100 mL), dried over MgSO4, filtered and concentrated in vacuo. Purification by column chromatography (hexanes:EtOAc 4:1) yielded 2-[(2,4-difluorobenzoyl)amino]ethyl methanesulfonate (300 mg, 72%) as a clear liquid.

reactant | 2,4-difluoro-N-(2-hydroxyethyl)benzamide | 1.49 mmol, 299 mg | FC1=C(C(=O)NCCO)C=CC(=C1)F | C9H9F2NO2
reactant | triethylamine | 2.98 mmol, 302 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.98 mmol, 335 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | 1 N, 5 mL | Cl | ClH
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-[(2,4-difluorobenzoyl)amino]ethyl methanesulfonate | 300 mg, 72% | CS(=O)(=O)OCCNC(C1=C(C=C(C=C1)F)F)=O | C10H11F2NO4S
